US04716167
A mixture of 6-isopropenyl-4-oxo-4H-1-benzopyran-3-carbonitrile (800 mg), ethanol (40 ml), piperidine (0.6 ml) and ethyl cyanoacetate (0.7 ml) was subjected to reflux for three hours, which was then left standing at room temperature overnight. Precipitating crystals were collected by filtration, which were recrystallized from ethanol to afford colorless crystals (1.09 g) of ethyl 2-amino-7-isopropenyl-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-3-carboxylate, m.p. 227°-230° C. (decomp.).

reactant | 6-isopropenyl-4-oxo-4H-1-benzopyran-3-carbonitrile | 800 mg | C(=C)(C)C=1C=CC2=C(C(C(=CO2)C#N)=O)C1 | C13H9NO2
reactant | piperidine | 0.6 ml | N1CCCCC1 | C5H11N
reactant | ethyl cyanoacetate | 0.7 ml | C(#N)CC(=O)OCC | C5H7NO2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | ethyl 2-amino-7-isopropenyl-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-3-carboxylate | 1.09 g | NC1=C(C=C2C(=N1)OC1=C(C2=O)C=C(C=C1)C(=C)C)C(=O)OCC | C18H16N2O4
